US06071927
2-(2-Fluoroethoxy)-5-(trifluoromethoxy)bromobenzene
To a cooled (-78° C.) suspension of 2-(2-hydroxyethoxy)-5-(trifluoromethoxy)bromobenzene (Description 30; 8.9 g, 30 mmol). in dichoromethane (80 ml) was added diethylaminosulphur trifluoride (3.88 ml, 31.5 mmol). The solution was stirred at ambient temperature for 2 h., then quenched by the dropwise addition of water (100 ml). The organic layer was separated, washed with brine (100 ml), dried (MgSO4), and evaporated in vacuo. Purification in silica, eluting with 15%-20% ethyl acetate in hexane gave the title compound as a clear oil (1.9 g, 15%). 1H NMR (360 MHz, CDCl3) δ4.23 (1H, m), 4.31 (1H, m), 4.37 (1H, m), 4.86 (1H, m), 6.90 (1H, m), 7.15 (1H, m), and 7.47 (1H, t, J 0.7 Hz).

reactant | 2-(2-hydroxyethoxy)-5-(trifluoromethoxy)bromobenzene | 30 mmol, 8.9 g | OCCOC1=C(C=C(C=C1)OC(F)(F)F)Br | C9H8BrF3O3
reactant | diethylaminosulphur trifluoride | 31.5 mmol, 3.88 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichoromethane | 80 ml | ClCCl | CH2Cl2
product | 2-(2-Fluoroethoxy)-5-(trifluoromethoxy)bromobenzene | 1.9 g, 15% | FCCOC1=C(C=C(C=C1)OC(F)(F)F)Br | C9H7BrF4O2
